US04925867
A solution of ethyl 3-(dimethoxymethyl)-crotonate (73 g) in ethyl acetate (200 ml) was hydrogenated at 50 psi for 3 h in the presence of 10% palladium on charcoal (7 g). The solution was filtered, evaporated, and the residual oil treated with 0.25 M hydrogen chloride in 75% aqueous methanol for 2 h. To the reaction mixture was added ethyl acetate (300 ml) and water (150 ml). The organic phase was successively washed with sat. sodium bicarbonate solution (3×150 ml), water (100 ml) and dried over magnesium sulfate. The solution was concentrated in vacuo and the residual oil purified by chromatography on silica gel eluting with ethyl acetate-hexane (1:9) to give ethyl 3-formylbutyrate (26.5 g, 48%).

reactant | ethyl 3-(dimethoxymethyl)-crotonate | 73 g | COC(\C(=C/C(=O)OCC)\C)OC | C9H16O4
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 7 g | [Pd] | Pd
product | ethyl 3-formylbutyrate | 26.5 g, 48% | C(=O)C(CC(=O)OCC)C | C7H12O3
